US05354762
Triethylamine (1.0 g, 0.01 mol) was added to a solution of N'-t-butyl-N'-benzoylhydrazine (0.86 g, 0.0031 mol) and pyrazine carboxylic acid (0.56 g, 0.0045 mol) in 10 ml of methylene chloride at 23° C. This mixture was added to a solution of methanesulfonyl chloride (0.6 g, 0.0052 mol) in 10 ml of methylene chloride at 0° C. The mixture was stirred at 23° C. for 3 hours and then allowed to stand at 23° C. overnight. Aqueous sodium bicarbonate was added and the layers were separated. The organic extracts were evaporated to give crude product which was triturated with ether to afford N'-t-butyl-N-(pyrazinecarbonyl)-N'benzoylhydrazine as a white solid. m.p. 181°-183° C.

reactant | Triethylamine | 0.01 mol, 1.0 g | C(C)N(CC)CC | C6H15N
reactant | N'-t-butyl-N'-benzoylhydrazine | 0.0031 mol, 0.86 g | C(C)(C)(C)N(N)C(C1=CC=CC=C1)=O | C11H16N2O
reactant | pyrazine carboxylic acid | 0.0045 mol, 0.56 g | N1=C(C=NC=C1)C(=O)O | C5H4N2O2
reactant | methanesulfonyl chloride | 0.0052 mol, 0.6 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | N'-t-butyl-N-(pyrazinecarbonyl)-N'benzoylhydrazine | C(C)(C)(C)N(NC(=O)C1=NC=CN=C1)C(C1=CC=CC=C1)=O | C16H18N4O2
